US04540703
20 % aqueous Hydrochloric acid (100 ml) is added to methyl 5-(1-phenyl-1,2,3,4-tetrazol-5-yl)valerate (9.3 g) and the mixture is refluxed for 4 hours. After cooling, water is added and the mixture is extracted with chloroform. The chloroform solution is extracted with aqueous saturated sodium bicarbonate solution. The aqueous layer is acidified with concentrated hydrochloric acid and again extracted with chloroform. The latter chloroform extract is washed with aqueous saturated sodium chloride solution and dried over magnesium sulfate. Chloroform is distilled off to give 5-(1-phenyl-1,2,3,4-tetrazol-5-yl)valeric acid (8.2 g), pale yellow liquid.

reactant | Hydrochloric acid | 100 ml | Cl | ClH
reactant | methyl 5-(1-phenyl-1,2,3,4-tetrazol-5-yl)valerate | 9.3 g | C1(=CC=CC=C1)N1N=NN=C1CCCCC(=O)OC | C13H16N4O2
solvent | water | O | H2O
product | 5-(1-phenyl-1,2,3,4-tetrazol-5-yl)valeric acid | 8.2 g | C1(=CC=CC=C1)N1N=NN=C1CCCCC(=O)O | C12H14N4O2
